* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM7223B.asc
* Generated by LTspice 24.1.9 for Windows.
V1 inputA 0 PULSE(0 5 0 2n 2n 5u 10u)
V2 inputB 0 PULSE(5 0 0 2n 2n 5u 10u)
V3 VDD1 0 5
V5 VDDA 0 12
C2 VOB 0 2n
V6 VDDB 0 12
X§U1 0 inputA inputB 0 VDD1 0 VOB VDDB 0 VOA VDDA ADuM7223B
C1 VOA 0 2n
.tran 50u
.lib ADuM7223B.sub
.backanno
.end
